Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left forearm fracture
 
Major Surgical or Invasive Procedure:
open reduction and internal fixation of left radius and ulna

 
History of Present Illness:
This is a ___ F sent to the ___ on ___ ___ for a 
left forearm fracture. Patient was reportedly crossing the road 
the previous evening and was struck in by a low speed truck. She 
held her arm up to protect her and was thrown backwards. She had 
immediate L forearm pain and deformity, but reports no other 
injuries other than some minor abrasions. She was brought 
directly to the ___ for further evaluation. Denies headstrike, 
LOC, or other associated injuries. NV intact on arrival. 

 
Past Medical History:
anxiety, back pain
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
PHYSICAL EXAMINATION UPON ADMISSION:

Vitals: AFVSS

A&O x 3 
Calm and comfortable 
  
LUE skin clean and intact 
No skin tenting or skin compromise is noted, closed injury, no
open wounds 
Small abrasion/ ecchymosis over ulnar aspect of L forearm, does
not communicate to deep tissues
Obviously tender over entire L forearm, minimal swelling and
ecchymosis is notes 
Arms and forearm compartments soft 
No pain with passive motion of fingers
Axillary, Radial, Median, Ulnar SILT 
EPL FPL EIP EDC FDP FDS fire 
2+ radial pulses 

PHYSICAL EXAMINATION UPON DISCHARGE:
AFVSS
Well-appearing female
Respirations non-labored
Left upper extremity: Short arm splint in place. Sensation 
intact to light in median, ulnar, and radial distributions. 
+AIN/PIN/ulnar motor function, limited by pain but able to move 
against resistance. Fingers warm and well perfused. Hand and 
fingers soft, no pain with passive stretch; arm soft above 
splint. 
 
Pertinent Results:
___ 09:00AM   GLUCOSE-96 UREA N-8 CREAT-0.6 SODIUM-136 
POTASSIUM-3.4 CHLORIDE-105 TOTAL CO2-23 ANION GAP-11
___ 09:00AM   WBC-7.5 RBC-4.02* HGB-12.1 HCT-37.7 MCV-94 
MCH-30.1 MCHC-32.1 RDW-12.1
___ 09:00AM   ___ PTT-31.2 ___
___ 09:00AM   PLT COUNT-201
___ 04:44AM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-TR
___ 04:44AM URINE  RBC-1 WBC-6* BACTERIA-FEW YEAST-NONE 
EPI-5
 
Brief Hospital Course:
The patient was admitted to the Orthopaedic Trauma service on 
___. Home medications, including oxycodone, gabapentin and 
alprazolam, were continued, as well as IV dilaudid for pain 
control. Preoperatively, pain control was problematic, though 
concern for compartment syndrome remained low with serial 
examinations. The patient underwent open reduction and internal 
fixation of left radius and ulna fractures on ___, 
performed by Dr. ___.

Neuro: Postoperatively, pain was controlled with dilaudid PCA, 
transitioned on POD1 to PO oxycodone, with good effect. The 
patient took 60mg of oxycodone daily prior to surgery, and 
therefore relatively high doses of oxycodone were required for 
pain control.

CV: Vital signs were routinely monitored and the patient 
remained hemodynamically  stable.

Pulm: There were no respiratory issues.

GI: The patient tolerated a regular diet both pre- and 
post-operatively.

ID: The patient received perioperative ancef and remained 
afebrile.

Heme: The patient received subq lovenox for DVT prophylaxis, and 
will complete a ___ctivity: The patient was seen by OT and cleared for discharge 
to home.

On day of discharge, the patient was afebrile with acceptable 
pain control. She is discharged to home and will follow-up in 
Ortho Trauma clinic in ___ days. She will complete a 2 week 
course of lovenox and will remain non-weight-bearing on her left 
upper extremity. 
 
Medications on Admission:
Alprazalom 1mg BID, Oxycodone 10mg q4-6H, gabapentin 300mg TID 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
do not exceed 4000mg (4g) per day 
2. ALPRAZolam 1 mg PO BID:PRN anxiety 
RX *alprazolam 1 mg 1 tablet(s) by mouth twice per day Disp #*8 
Tablet Refills:*0
3. Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg 1 capsule(s) by mouth three times per day 
Disp #*12 Capsule Refills:*0
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
do not drink alcohol or drive while taking. do NOT continue 
taking prior oxycodone dose. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*180 Tablet Refills:*0
5. Aspirin 325 mg PO DAILY Duration: 12 Days 
Continue for 12 days after discharge 
6. Docusate Sodium 100 mg PO BID:PRN constipation 

Please note that the patient was provided with small 
prescriptions for alprazolam and gabapentin, as she states she 
had run out of these medications just prior to trauma; she was 
instructed to follow-up with her primary provider as soon as 
possible for full prescriptions.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left both-bone forearm fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
MEDICATIONS:

- Please take all medications as prescribed by your physicians 
at discharge.

- Continue all home medications unless specifically instructed 
to stop by your surgeon.

- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.

- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:

- Please take aspirin 325mg daily for 12 days following 
discharge (total of 14 day post-operative course of 
anticoagulation) 
 

WOUND CARE:

- No baths or swimming for at least 4 weeks.

-Splint must be left on until follow up appointment.

-Do NOT get splint wet

 

ACTIVITY AND WEIGHT BEARING:

- left upper extremity: non-weight-bearing; leave splint in 
place until follow-up visit
 
Followup Instructions:
___